US06884821B1
Using 2-propoxy-4-(trifluoromethyl)benzoic acid and 3-[3-([(tert-butoxycarbonyl)amino]methyl)-4-methoxyphenyl]-2-isopropoxypropanoate, 2-isopropoxy-3-[4-methoxy-3-([2-propoxy-4-(trifluoromethyl)benzoyl]aminomethyl)phenyl]propanoic acid was obtained in the same method as in Example 38).

reactant | 2-propoxy-4-(trifluoromethyl)benzoic acid | C(CC)OC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C11H11F3O3
reactant | 3-[3-([(tert-butoxycarbonyl)amino]methyl)-4-methoxyphenyl]-2-isopropoxypropanoate | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1OC)CC(C(=O)[O-])OC(C)C
product | 2-isopropoxy-3-[4-methoxy-3-([2-propoxy-4-(trifluoromethyl)benzoyl]aminomethyl)phenyl]propanoic acid | C(C)(C)OC(C(=O)O)CC1=CC(=C(C=C1)OC)CNC(C1=C(C=C(C=C1)C(F)(F)F)OCCC)=O | C25H30F3NO6
